US08580799B2
To a stirred solution of tert-butyl {6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]-amino}oxy)methyl]pyridin-2-yl}carbamate (104 mg, 0.24 mmol) in dry DMF (5 mL) was added sodium hydride (60 wt.-% in mineral oil, 11 mg, 0.27 mmol). After stirring at room temperature for 15 min, 1-iodohexane (62 mg, 0.29 mmol) was added, and the mixture stirred at room temperature for 16 h. After dropwise addition of trifluoroacetic anhydride (1 mL, 13 mmol), the mixture was stirred at 50° C. for 8 h. The cooled reaction mixture was poured into sat. aq. NaHCO3 (40 mL), extracted with ethyl acetate (2×30 mL), the organic layer was washed with water, dried (MgSO4) and concentrated in vacuo. Purification on silica gel afforded N-hexyl-6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-amine as an orange oil [79 mg, yield 75%; HPLC/MS: m/z=410 (M+H); log P(HCOOH)=3.11].

reactant | tert-butyl {6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]-amino}oxy)methyl]pyridin-2-yl}carbamate | 0.24 mmol, 104 mg | CC=1C(=NSN1)C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C21H23N5O3S
reactant | sodium hydride | 0.27 mmol, 11 mg | [H-].[Na+]
reactant | 1-iodohexane | 0.29 mmol, 62 mg | ICCCCCC | C6H13I
reactant | trifluoroacetic anhydride | 13 mmol, 1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-hexyl-6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-amine | yield 75% | C(CCCCC)NC1=NC(=CC=C1)CON=C(C1=CC=CC=C1)C1=NSN=C1C | C22H27N5OS
